US03931155
4'-Phenethyl-2-(2-pyrrolidinyl)acetophenone
Magnesium methyl carbonate (0.4 mole, 2 M in dimethylformamide) is heated to 120°C. under carbon dioxide. The compound 4'-phenethylacetophenone, 22.4 g (0.1 mole), is added and the mixture is stirred at 120°C. for 4 hours under a stream of nitrogen allowing the methanol that forms to escape. The reaction mixture is allowed to cool to room temperature under an atmosphere of carbon dioxide and 8.3 g (0.12 mole) of 1-pyrroline (as the trimer) added and stirred at room temperature under carbon dioxide for a period of 40 hours. The solution is poured into a mixture of 200 ml of concentrated HCl and 800 g of ice and the product removed by filtration. The 4'-phenethyl-2-(2-pyrrolidinyl)-acetophenone when twice recrystallized in the form of its hydrochloride salt from an aqueous isopropanol solution is obtained in 63% yield (20.1 g) and has a M.P. of 200-1°C. (dec).

reactant | Magnesium methyl carbonate | 0.4 mole, 2 M | C(OC)([O-])=O.[Mg+2].COC([O-])=O
reactant | 4'-phenethylacetophenone | C(CC1=CC=CC=C1)C1=CC=C(C=C1)C(C)=O | C16H16O
reactant | 1-pyrroline | 0.12 mole, 8.3 g | N1=CCCC1 | C4H7N
reactant | HCl | 200 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | 4'-Phenethyl-2-(2-pyrrolidinyl)acetophenone | 63% yield | C(CC1=CC=CC=C1)C1=CC=C(C=C1)C(CC1NCCC1)=O | C20H23NO
